US06686347B2
8d) 1-Chloro-4-[3-(pyridin-3-yl)propyl]phthalazine
Under exclusion of air, 771 mg (2.9 mmol) 4-[3-(pyridin-3-yl)propyl]phthalazin-1(2H)-one in 14 ml acetonitrile is mixed with 1.11 g (7.25 mmol) phosphoryl chloride and 1.45 ml 4 N HCl in dioxane and stirred for 36 h at 45° C. Then 50 ml water is added, the reaction mixture adjusted to alkaline pH with sat. Na2CO3 solution and immediately extracted 3 times with EtOAc. Drying (Na2SO4) of the organic phases and evaporation yield the title compound; FAB-MS (M+H)+=284.

reactant | 4-[3-(pyridin-3-yl)propyl]phthalazin-1(2H)-one | 2.9 mmol, 771 mg | N1=CC(=CC=C1)CCCC1=NNC(C2=CC=CC=C12)=O | C16H15N3O
reactant | phosphoryl chloride | 7.25 mmol, 1.11 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | HCl | 4 N, 1.45 ml | Cl | ClH
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 14 ml | C(C)#N | C2H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | 1-Chloro-4-[3-(pyridin-3-yl)propyl]phthalazine | ClC1=NN=C(C2=CC=CC=C12)CCCC=1C=NC=CC1 | C16H14ClN3
